US04296114
1-(4-Chlorophenyl)-1,2-dihydro-3,6-dimethylquinoxalin-2-one
Preparation as in Example 1 but using N-(4-chlorophenyl)-4-methylbenzene-1,2-diamine and ethyl pyruvate gave the title compound mp 223°-225° C.

reactant | N-(4-chlorophenyl)-4-methylbenzene-1,2-diamine | ClC1=CC=C(C=C1)NC=1C(=CC(=CC1)C)N | C13H13ClN2
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | 1-(4-Chlorophenyl)-1,2-dihydro-3,6-dimethylquinoxalin-2-one | ClC1=CC=C(C=C1)N1C(C(=NC2=CC(=CC=C12)C)C)=O | C16H13ClN2O
